US07951810B2
Step e: ((3aR,4R,6R,6aR)-2,2-Dimethyl-6-{6-[3-(1H-pyrazol-1-yl)phenyl]-9H-purin-9-yl}-tetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl sulfamate
Using essentially the same procedure as Example 43, step f, ((3aR,4R,6R,6aR)-2,2-dimethyl-6-{6-[3-(1H-pyrazol-1-yl)phenyl]-9H-purin-9-yl}tetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methanol (0.2 g, 0.46 mmol) was reacted with chlorosulfonamide, as described in Example 43, step f, and the product was purified by flash chromatography using 40-75% ethyl acetate/hexanes to give the title compound as a yellow solid (0.208, 88%).

reactant | ((3aR,4R,6R,6aR)-2,2-dimethyl-6-{6-[3-(1H-pyrazol-1-yl)phenyl]-9H-purin-9-yl}tetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methanol | 0.46 mmol, 0.2 g | CC1(O[C@H]2[C@@H](O1)[C@@H](O[C@@H]2CO)N2C1=NC=NC(=C1N=C2)C2=CC(=CC=C2)N2N=CC=C2)C | C22H22N6O4
reactant | chlorosulfonamide | ClS(=O)(=O)N | ClH2NO2S
product | ((3aR,4R,6R,6aR)-2,2-Dimethyl-6-{6-[3-(1H-pyrazol-1-yl)phenyl]-9H-purin-9-yl}-tetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl sulfamate | 88% | S(N)(OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)C2=CC(=CC=C2)N2N=CC=C2)(=O)=O | C22H23N7O6S
